US06552016B1
Trans-1-(tert-butoxycarbonyl)-4-hydroxy-L-proline methyl ester
The product ester of the previous reaction (423 g, 2.32 mol) was suspended in dichloromethane (6.5 L). Under stirring and cooling, triethylamine (1019 mL, 7.32 mol) was added over 30 min., followed by di-tert-butyl dicarbonate (588 g, 2.70 mol) over 30 min. to maintain the internal temperature below 15° C. After complete addition, the mixture was stirred at room temperature for 3 hours, followed by addition of 1 M aqueous citric acid solution (650 mL). The mixture was stirred 1 hour, and the organic layer was separated, washed with 1 M aqueous KHCO3 (920 mL), water (2×1 L), and dried over MgSO4 in the presence of activated charcoal (15 g). The solvent was removed in vacuo and the residue purified by flash chromatography (2×1800 g silica gel, 3:1 to 2:1 hexane:EtOAc eluent) to give the desired carbarnate (489 g).

reactant | triethylamine | 7.32 mol, 1019 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 2.70 mol, 588 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | citric acid | 1 M, 650 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | dichloromethane | 6.5 L | ClCCl | CH2Cl2
product | Trans-1-(tert-butoxycarbonyl)-4-hydroxy-L-proline methyl ester | COC([C@H]1N(C[C@@H](C1)O)C(=O)OC(C)(C)C)=O | C11H19NO5
